US06559169B2
3-[1-(8-Methoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-1H-indole
(2R)-8-Methoxy-2,3-dihydro-benzo[1,4]dioxin-2-yl]methyl-4-methylbenzenesulfonate (1.1 g, 3.1 mmole) was dissolved in a mixture of dimethylformamide/tetrahydrofuran (1:1 v/v, 50 mL) and 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (0.60 g 1.6 mmole) added, followed by sodium bicarbonate (1.0 g). The reaction mixture was refluxed under nitrogen for 18 hours, then cooled and concentrated in vacuum. The residue was partitioned between 400 mL each of water and ethyl acetate. The layers were separated. The organic phase was washed with water and saturated aqueous sodium chloride solution, dried over anhydrous potassium carbonate and evaporated to a foam (1.0 g). Trituration with ether yielded a solid which was recrystallized from boiling chloroform/methanol (1:1 v/v) to give 0.40 g (40%) of the (S)-enantiomer of the title compound as an off-white solid one-quarter hydrate, m.p. 203-205° C.

reactant | methyl-4-methylbenzenesulfonate | 3.1 mmole, 1.1 g | COS(=O)(=O)C1=CC=C(C=C1)C | C8H10O3S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 1.6 mmole, 0.60 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
reactant | sodium bicarbonate | 1.0 g | C([O-])(O)=O.[Na+]
reactant | dimethylformamide tetrahydrofuran | 50 mL | CN(C=O)C.O1CCCC1
product | 3-[1-(8-Methoxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-1H-indole | COC1=CC=CC2=C1OC(CO2)CN2CCC(=CC2)C2=CNC1=CC=CC=C21 | C23H24N2O3
